US05627200
Methyl 5-(propan-2-one-yl)benzofuran-2-carboxylic acid
A solution of methyl 5-bromobenzofuran-2-carboxylic acid (2.4 g, 9.3 mmol), tributyltin methoxide (4.0 mL, 14 mmol), isopropenyl acetate (1.4 mL, 14 mmol), palladium (II) acetate (0.1 g, 0.5 mmol) and tri-o-tolylphosphine (0.3 g, 1 mmol) in toluene (6 mL) were heated at 95° C. for 2 hours. The reaction solution was concentrated in vacuo and subjected to flash chromatography on silica gel (25% ethyl acetate:hexanes) to afford the title compound as a colorless solid, (1.8 g; m.p. 77°-79° C., Analytical calculated for C13H12O4 : C, 67.25; H, 5.21. Found: C, 67.12; H, 4.95).

reactant | methyl 5-bromobenzofuran-2-carboxylic acid | 9.3 mmol, 2.4 g | CC1=C(OC2=C1C=C(C=C2)Br)C(=O)O | C10H7BrO3
reactant | tributyltin methoxide | 14 mmol, 4.0 mL | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 14 mmol, 1.4 mL | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-o-tolylphosphine | 1 mmol, 0.3 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.5 mmol, 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 5-(propan-2-one-yl)benzofuran-2-carboxylic acid | CC1=C(OC2=C1C=C(C=C2)CC(C)=O)C(=O)O | C13H12O4
